US08471005B2
To a solution of [4-(3-Methoxy-4-nitro-phenyl)-3,6-dihydro-2H-pyridin-1-yl]-acetic acid tert-butyl ester (145 mg, 0.416 mmol) in methanol (15 mL, 370 mmol) was added 10% Palladium on Carbon (50% Wet, 44.3 mg, 0.0208 mmol). The mixture was shaken in a Parr apparatus under an atmosphere of Hydrogen (50 PSI) for 3 h. Filtration through Celite and evaporation of the solvent provided crude [4-(4-Amino-3-methoxy-phenyl)-piperidin-1-yl]-acetic acid tert-butyl ester, which was used without further purification.

reactant | [4-(3-Methoxy-4-nitro-phenyl)-3,6-dihydro-2H-pyridin-1-yl]-acetic acid tert-butyl ester | 0.416 mmol, 145 mg | C(C)(C)(C)OC(CN1CCC(=CC1)C1=CC(=C(C=C1)[N+](=O)[O-])OC)=O | C18H24N2O5
reactant | methanol | 370 mmol, 15 mL | CO | CH4O
catalyst | Palladium on Carbon | 0.0208 mmol, 44.3 mg | [Pd] | Pd
product | [4-(4-Amino-3-methoxy-phenyl)-piperidin-1-yl]-acetic acid tert-butyl ester | C(C)(C)(C)OC(CN1CCC(CC1)C1=CC(=C(C=C1)N)OC)=O | C18H28N2O3
